US07414060B2
3-(5-Fluoro-pyridin-3-ylamino)-6-methyl-pyridine-2-carboxylic acid [1-(2-methoxy-ethyl)-1H-pyrazol-3-yl]-amide
The title compound, was prepared from 3-Amino-6-methyl-pyridine-2-carboxylic acid [1-(2-methoxy-ethyl)-1H-pyrazol-3-yl]-amide in accordance with the general method of example, step using 3,5-Difluoropyridine instead of 3-bromopyridineto yield the final compound as a off-white solid, MS (ISP): m/e=371.3 (M+H+).

reactant | 3-Amino-6-methyl-pyridine-2-carboxylic acid [1-(2-methoxy-ethyl)-1H-pyrazol-3-yl]-amide | COCCN1N=C(C=C1)NC(=O)C1=NC(=CC=C1N)C | C13H17N5O2
reactant | 3,5-Difluoropyridine | FC=1C=NC=C(C1)F | C5H3F2N
product | 3-(5-Fluoro-pyridin-3-ylamino)-6-methyl-pyridine-2-carboxylic acid [1-(2-methoxy-ethyl)-1H-pyrazol-3-yl]-amide | COCCN1N=C(C=C1)NC(=O)C1=NC(=CC=C1NC=1C=NC=C(C1)F)C | C18H19FN6O2
